US06590082B1
A mixture of octadecanol (270 grams, 1.0 mol; obtained from Sigma-Aldrich Co., Milwaukee, Wis.), isatoic anhydride (244 grams, 1.5 mol; obtained from Sigma-Aldrich Co.), and 1,4-diazabicyclo[2.2.2]octane (56 grams, 0.50 mol; obtained from Sigma-Aldrich Co.) in 1,000 milliliters of dimethylformamide was stirred and heated to 100° C. in a 4 liter beaker. Vigorous gas evolution occurred. After 10 minutes, the resultant brown solution was heated to 150° C. for 15 minutes. The reaction mixture was then cooled to 50° C. and vigorously stirred while 3,000 milliliters of methanol was added. The resultant suspension was stirred for 0.5 hour followed by vacuum filtration. The solid thus obtained was washed in the filter funnel with 4×300 milliliter portions of methanol and then dried in air to give the product stearyl anthranilate as white powder (330.5 grams, 85 percent yield).

reactant | octadecanol | 1.0 mol, 270 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | isatoic anhydride | 1.5 mol, 244 grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.50 mol, 56 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | methanol | 3,000 milliliters | CO | CH4O
solvent | dimethylformamide | 1,000 milliliters | CN(C=O)C | C3H7NO
product | stearyl anthranilate | 330.5 grams, 85 percent yield | C(C=1C(N)=CC=CC1)(=O)OCCCCCCCCCCCCCCCCCC | C25H43NO2
